US06838576B1
In a 250 mL round bottom flask, 8-bromooctan-1-ol (4.0 g, 19.1 mmol) (available from Sigma-Aldrich Canada) was dissolved in CH2Cl2 (40 mL) at room temperature. 2,2,6,6-Tetramethyl-1-piperidinyloxy free radical (TEMPO) (24.6 mg, 0.16 mmol) (available from Sigma-Aldrich Canada) was added to produce a red-coloured solution. A premix of NaOCl (5.25%, 36.7 g, 25.9 mmol) and saturated NaHCO3 (25.9 mL) was added. The reaction mixture was vigorously stirred for 45 min. at room temperature. The progress of the conversion was monitored by gas chromatography-mass spectrometry (GC-MS) (Varian Saturn 2000 GC-MS). Additional NaOCl was added until complete conversion was obtained. Saturated Na2SO3 (20 mL) was added. The aqueous phase was separated and extracted with CH2Cl2 (2×20 mL). The resulting organic phase was washed with water (20 mL), and dried (Na2SO4). Evaporation of the solvent from the organic phase yielded the 8-bromooctan-1-al as an orange liquid (3.82 g, 96%).

reactant | 8-bromooctan-1-ol | 19.1 mmol, 4.0 g | BrCCCCCCCCO | C8H17BrO
reactant | NaOCl | 25.9 mmol, 36.7 g | [O-]Cl.[Na+]
reactant | NaHCO3 | 25.9 mL | C(=O)(O)[O-].[Na+]
reactant | Na2SO3 | 20 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 8-bromooctan-1-al | 3.82 g, 96% | BrCCCCCCCC=O | C8H15BrO
